US08008298B2
(2-Bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclopentyl)-methanone was prepared starting from 2-bromo-5H-pyrrolo[2,3-b]pyrazine and 1-methyl-cyclopentanecarbonyl chloride following general procedures as described in these Examples. MP 206.9-207.9° C., M+H=308.

reactant | 2-bromo-5H-pyrrolo[2,3-b]pyrazine | BrC=1N=C2C(=NC1)NC=C2 | C6H4BrN3
reactant | 1-methyl-cyclopentanecarbonyl chloride | CC1(CCCC1)C(=O)Cl | C7H11ClO
product | (2-Bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclopentyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCC2)C | C13H14BrN3O
